US07951951B2
1.86 g (6.72 mmol) of 4-[(6-chloropyridin-3-yl)methyl]-6-methylene-5,6,7,7a-tetrahydrofuro-[3,2-b]pyridin-2(4H)-one (cf. I-5) are dissolved in 20 ml of tetrahydrofuran, and 5.06 ml (0.40 mmol) of a 2.5% strength solution of osmium tetroxide in tert-butanol and 1.28 g (10.08 mmol) of N-methylmorpholine N-oxide are added successively at 0° C. After 3 hours of stirring at room temperature, the mixture is substantially concentrated under reduced pressure, the residue is taken up in water and the mixture is extracted repeatedly with ethyl acetate. Concentration of the organic phase under reduced pressure gives 1.8 g of crude product (mixture of diastereomers). 200 mg of the crude product (taken into account for the determination of the yield) are purified by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 0.063 mm) using the mobile phase mixture dichloromethane:methanol (95:5 to 90:10). This gives both possible diastereomers of 4-[(6-chloropyridin-3-yl)methyl]-6-hydroxy-6-hydroxymethyl-5,6,7,7a-tetrahydrofuro[3,2-b]pyridin-2(4H)-one: (a) 41 mg (18% of theory) of diastereomer A and (b) 104 mg (47% of theory) of diastereomer B.

reactant | 4-[(6-chloropyridin-3-yl)methyl]-6-methylene-5,6,7,7a-tetrahydrofuro-[3,2-b]pyridin-2(4H)-one | 6.72 mmol, 1.86 g | ClC1=CC=C(C=N1)CN1C=2C(CC(C1)=C)OC(C2)=O | C14H13ClN2O2
reactant | N-methylmorpholine N-oxide | 10.08 mmol, 1.28 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 4-[(6-chloropyridin-3-yl)methyl]-6-hydroxy-6-hydroxymethyl-5,6,7,7a-tetrahydrofuro[3,2-b]pyridin-2(4H)-one | ClC1=CC=C(C=N1)CN1C=2C(CC(C1)(CO)O)OC(C2)=O | C14H15ClN2O4
